US04687856
45.9 g (0.22 mol) of 3-hydroxy-3-(2-methyl-5-pyridyl)-propionic acid ethyl ester was dissolved in 100 ml of ethyl acetate, and 50 ml (0.53 mol) of acetic anhydride and 0.1 g (0.82 mmol) of 4-dimethylaminopyridine were added. The solution was stirred for 6 hours at 20° C. and then evaporated. The residue was dissolved in 50 ml methylene chloride and 50 ml of 5 percent sodium hydroxide solution, the phases were separated and the organic phase was evaporated. 55.8 g of raw 3-acetoxy-3-(2-methyl-5-pyridyl)-propionic acid ethyl ester was obtained. This raw product was dissolved in 300 ml of acetic acid with 3.0 g of 5 percent palladium on carbon and fed into a 1-liter autoclave. The autoclave was put under 8 bars of hydrogen and stirred at 70° C. Hydrogenation was ended after 6 hours. The autoclave was cooled and opened, and the solution was filtered and evaporated. The residue was dissolved in 50 ml of water and brought to pH 8 by potassium carbonate. The solution was extracted three times with 100 ml of methylene chloride and the organic extracts were evaporated. 42.5 g of raw 2-methyl- pyridine-5-propionic acid ethyl ester was obtained. The raw product was distilled (b.p. 100°-110° C./1.0 mbar). 22.0 g of 2-methylpyridine-5-propionic acid ethyl ester was obtained, with a GC content of 92 percent. The yield, in relation to the 6-methyl nicotinoyl propionic acid ethyl ester, was 62.9 percent.

reactant | 3-hydroxy-3-(2-methyl-5-pyridyl)-propionic acid ethyl ester | 0.22 mol, 45.9 g | C(C)OC(CC(C=1C=CC(=NC1)C)O)=O | C11H15NO3
reactant | acetic anhydride | 0.53 mol, 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | 4-dimethylaminopyridine | 0.82 mmol, 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-acetoxy-3-(2-methyl-5-pyridyl)-propionic acid ethyl ester | 55.8 g | C(C)OC(CC(C=1C=CC(=NC1)C)OC(C)=O)=O | C13H17NO4
